US07960552B2
A 1 N solution of sodium hydroxide (384.4 μL, 384.4 μmol) was added to ethyl 6-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-4-methyl-2-quinazolinecarboxylate (110.8 mg, 192.2 μmol) in tetrahydrofuran and methanol (1:1, 1.9 mL) and the mixture was heated in the microwave at 90° C. for 10 minutes. After cooling, the mixture was neutralized with 1 N hydrochloric acid (384.4 μL), water added, and the reaction mixture was extracted with ethyl acetate. The organic layer was washed with brine, then dried over anhydrous magnesium sulfate, filtered and concentrated to give 104.0 mg (99%) of 6-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-4-methyl-2-quinazolinecarboxylic acid as a solid. 1H NMR (400 MHz, d6-DMSO): δ 13.47 (br s, 1H), 8.43 (d, J=2 Hz, 1H), 8.33 (dd, J=9, 2 Hz, 1H), 8.12 (d, J=9 Hz, 1H), 7.81 (d, J=9 Hz, 2H), 7.65-7.62 (m, 2H), 7.55 (dd, J=9, 7 Hz, 1H), 6.95 (d, J=9 Hz, 2H), 4.90 (s, 2H), 3.48 (septet, J=7 Hz, 1H), 3.03 (s, 3H), 1.35 (d, J=7 Hz, 6H). ESI-LCMS m/z 548 (M+H)+.

reactant | sodium hydroxide | 384.4 μmol, 384.4 μL | [OH-].[Na+]
reactant | ethyl 6-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-4-methyl-2-quinazolinecarboxylate | 192.2 μmol, 110.8 mg | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C(=NC(=NC2=CC1)C(=O)OCC)C)C(C)C | C31H27Cl2N3O4
reactant | hydrochloric acid | 1 N, 384.4 μL | Cl | ClH
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methanol | 1.9 mL | CO | CH4O
product | 6-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-4-methyl-2-quinazolinecarboxylic acid | 104.0 mg, 99% | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C(=NC(=NC2=CC1)C(=O)O)C)C(C)C | C29H23Cl2N3O4
